US05977105
c) (±)-1-(3'-Nitrobiphenyl-4-yloxy)-4-(3-pyridyl)-2-butanol
A solution of (±)-α-(chloromethyl)-3-pyridinepropanol (0.80 g) in ethanol (10 ml) was added to a refluxing solution of 3'-nitrobiphenyl-4-ol (1.40 g) in ethanol (20 ml) and aqueous sodium hydroxide (1.4 M, 5 ml) over 30 minutes. The solution was heated at reflux for a further hour and then was cooled to room temperature. The reaction mixture was concentrated under reduced pressure and the residue purified by column chromatography over silica eluting with chloroform:ethanol (49:1 to 24:1) to give a yellow solid after trituration with ether (0.332 g).

reactant | (±)-α-(chloromethyl)-3-pyridinepropanol | 0.80 g | ClCC(CCC=1C=NC=CC1)O | C9H12ClNO
reactant | 3'-nitrobiphenyl-4-ol | 1.40 g | [N+](=O)([O-])C=1C=C(C=CC1)C1=CC=C(C=C1)O | C12H9NO3
solvent | ethanol | 10 ml | C(C)O | C2H6O
solvent | ethanol | 20 ml | C(C)O | C2H6O
solvent | sodium hydroxide | 1.4 M, 5 ml | [OH-].[Na+]
product | (±)-1-(3'-Nitrobiphenyl-4-yloxy)-4-(3-pyridyl)-2-butanol | [N+](=O)([O-])C=1C=C(C=CC1)C1=CC=C(C=C1)OCC(CCC=1C=NC=CC1)O | C21H20N2O4
